US08202885B2
BB10. [3-(6-Methoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amine
Prepared from 4-methoxy-benzene-1,2-diamine in analogy to the methods described for [3-(5,6-dimethoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amine.

reactant | 4-methoxy-benzene-1,2-diamine | COC=1C=C(C(=CC1)N)N | C7H10N2O
reactant | [3-(5,6-dimethoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amine | COC1=CC2=C(NC(=N2)CCCNC)C=C1OC | C13H19N3O2
product | [3-(6-Methoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amine | COC=1C=CC2=C(NC(=N2)CCCNC)C1 | C12H17N3O
